US07598281B2
Analogous to the reaction conditions of example 1, benzyl-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxymethyl)cyclohexyl]amine and cis-cyclobutane-1,2-dicarboxylic anhydride give 2-{benzyl-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxymethyl)cyclohexyl]carbamoyl}cyclobutanecarboxylic acid. C32H38N2O5 (530.67), MS (ESI): 531 (MH+).

reactant | benzyl-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxymethyl)cyclohexyl]amine | C(C1=CC=CC=C1)NC1CC(CCC1)COCC=1N=C(OC1C)C=1C=C(C=CC1)C | C26H32N2O2
reactant | cis-cyclobutane-1,2-dicarboxylic anhydride | [C@@H]12[C@@H](CC1)C(=O)OC2=O | C6H6O3
product | 2-{benzyl-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxymethyl)cyclohexyl]carbamoyl}cyclobutanecarboxylic acid | C(C1=CC=CC=C1)N(C(=O)C1C(CC1)C(=O)O)C1CC(CCC1)COCC=1N=C(OC1C)C=1C=C(C=CC1)C | C32H38N2O5
